US08258119B2
Synthesis of {3-[(dimethylamino)diazenyl] (2-thienyl)}-N-(2-hydroxyethyl)-carboxamide (Compound 9)
To an ice cold (0-5° C.) solution of ethanol amine (5 mL) in THF (5 mL) was added a solution of methyl 3-[(dimethylamino)diazenyl]thiophene-2-carboxylate (500 mg) in THF (5 mL) for 5 min and stirred at rt for 20 h. The solution was poured into ice cooled water and the solution was extracted with ethyl acetate (3×50 mL). The combined EtOAc layer was washed with water, brine and dried over sodium sulfate. The solution was filtered and evaporated the solvent. The residue was chromatographed over silica gel column using chloroform-methanol (95:5) as eluents to give the product, which was recrystallized from chloroform-hexane gave the product as a pale orange color solid (430 mg, 77%), mp 118-122° C. IR (neat) νmax, 3397, 3278, 2926, 1621, 1353, 1298, 1220, 1083, 1007, 882, 775 cm−1;

reactant | ethanol amine | 5 mL | C(O)CN | C2H7NO
reactant | methyl 3-[(dimethylamino)diazenyl]thiophene-2-carboxylate | 500 mg | CN(C)N=NC1=C(SC=C1)C(=O)OC | C8H11N3O2S
reactant | water | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | {3-[(dimethylamino)diazenyl] (2-thienyl)}-N-(2-hydroxyethyl)-carboxamide | 430 mg, 77% | CN(C)N=NC1=C(SC=C1)C(=O)NCCO | C9H14N4O2S
